US06867299B2
30 mg (0.09 mmol) of N-(2-amino-1,1-dimethyl-ethyl)-N′-(3-methoxy-4-oxazol-5-yl-phenyl)-oxalamide, 52 mg (0.45 mmol) of tert-butylacetic acid, 86 mg (0.45 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 69 mg of HOAt were dissolved and stirred in 2 ml of dimethylformamide. After stirring for 16 hours the mixture was diluted with 10 ml of dichloromethane and washed with 10% citric acid solution in water, saturated sodium hydrogen carbonate solution and brine. The organic solution was then dried with solid magnesium sulphate, filtered and evaporated to give N-(3-methoxy-4-(5-oxazolyl)phenyl]-N′-[2-(3,3-dimethylbutyramido)-1,1-dimethylethyl]oxalamide as a pale yellow solid, MS: m/e 431.3 [M+H]+.

reactant | N-(2-amino-1,1-dimethyl-ethyl)-N′-(3-methoxy-4-oxazol-5-yl-phenyl)-oxalamide | 0.09 mmol, 30 mg | NCC(C)(C)NC(C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)=O | C16H20N4O4
reactant | tert-butylacetic acid | 0.45 mmol, 52 mg | C(C)(C)(C)CC(=O)O | C6H12O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.45 mmol, 86 mg | Cl.CN(CCCN=C=NCC)C
reactant | HOAt | 69 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3-methoxy-4-(5-oxazolyl)phenyl]-N′-[2-(3,3-dimethylbutyramido)-1,1-dimethylethyl]oxalamide | COC=1C=C(C=CC1C1=CN=CO1)NC(C(=O)NC(CNC(CC(C)(C)C)=O)(C)C)=O | C22H30N4O5
